US09382188B2
B) 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenyl)propanoate (379 mg) in THF (7.0 mL) and methanol (14 mL) was added 1N aqueous sodium hydroxide solution (7.3 mL), and the mixture was stirred at room temperature for 7 hr. The reaction mixture was concentrated under reduced pressure, and water and 1N hydrochloric acid were added. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (334 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenyl)propanoate | 379 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C32H38FNO4
reactant | sodium hydroxide | 1N, 7.3 mL | [OH-].[Na+]
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 14 mL | CO | CH4O
product | 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoic acid | 334 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H34FNO4
